US05180419
Preparation of Diethyl 4-amino-5-hydroxyphthalate
A solution of diethyl-4-hydroxy-5-nitrophthalate (16.0 g, 56.7 mmol) in ethanol is treated with 10% palladium on carbon (1.6 g) and shaken overnight at room temperature on a Parr hydrogenator. After evacuation of hydrogen, the reaction mixture is filtered through diatomaceous earth. The filtrate is concentrated in vacuo to afford the title product as a yellow oil, 14.3 g (100%) identified by NMR spectral analysis.

reactant | diethyl-4-hydroxy-5-nitrophthalate | 56.7 mmol, 16.0 g | C(C)OC(C=1C(C(=O)OCC)=CC(=C(C1)[N+](=O)[O-])O)=O | C12H13NO7
solvent | ethanol | C(C)O | C2H6O
catalyst | palladium on carbon | 1.6 g | [Pd] | Pd
product | Diethyl 4-amino-5-hydroxyphthalate | NC=1C=C(C(C(=O)OCC)=CC1O)C(=O)OCC | C12H15NO5
